US08487300B2
b) Preparation of 3′,2″-diamino-p-quaterphenyl
16.6 g (42 mmol) of 3′,2″-dinitro-p-quaterphenyl and 1.99 g of Pd/C (10%) are suspended in 200 ml of methanol, and 8.4 g (222 mmol) of sodium borohydride are added in portions with stirring at 0° C. After stirring for 2 hours, the clear solution is neutralised with dilute HCl. The solvent is then removed, and the residue is washed intensively with water and recrystallised from dioxane. The precipitate is filtered and dried in vacuo, giving 11 g (35.6 mmol) of a crystalline solid. The overall yield is 78%.

reactant | 3′,2″-dinitro-p-quaterphenyl | 42 mmol, 16.6 g | [N+](=O)([O-])C=1C=C(C=CC1C1=C(C=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C24H16N2O4
reactant | sodium borohydride | 222 mmol, 8.4 g | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd/C | 1.99 g | [Pd] | Pd
product | 3′,2″-diamino-p-quaterphenyl | 35.6 mmol, 11 g, yield is 78% | NC=1C=C(C=CC1C1=C(C=C(C=C1)C1=CC=CC=C1)N)C1=CC=CC=C1 | C24H20N2
